US05766932
Stir overnight H-(L)-Pal-NH2.2HCl (432 mg, 1.82 mmol), Boc-(L)-Chg-OH (609 mg, 2.37 mmol, 1.3 equivalent), dicyclohexylcarbodiimide (494 mg, 2.4 mmol), hydroxybenzotriazole (324 mg, 2.4 mmol) and diisopropylethylamine (4 mmol) in dimethyl formamide (15 mL). Evaporate dimethyl formamide, add ethyl acetate and store the mixture at room temperature for 1 h. Filter off the diisopropylcarbodiimidecyclohexylurea formed, extract the solution by a saturated solution of sodium bicarbonate (3×), dry over magnesium sulfate, and evaporate. Crystallize by addition of hexanes to give Boc-(L)-Chg-(L)-Pal-NH2 (598 mg, 81%).

reactant | H-(L)-Pal-NH2.2HCl | 1.82 mmol, 432 mg | N[C@@H](CC1=CC=CN=C1)C(=O)N.Cl.Cl
reactant | Boc-(L)-Chg-OH | 2.37 mmol, 609 mg, 1.3 equivalent | N([C@@H](C1CCCCC1)C(=O)O)C(=O)OC(C)(C)C | C13H23NO4
reactant | dicyclohexylcarbodiimide | 2.4 mmol, 494 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hydroxybenzotriazole | 2.4 mmol, 324 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | diisopropylethylamine | 4 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-(L)-Chg-(L)-Pal-NH2 | 598 mg, 81% | N([C@@H](C1CCCCC1)C(=O)N[C@@H](CC1=CC=CN=C1)C(=O)N)C(=O)OC(C)(C)C | C21H32N4O4
